2138-09-27 07:27:00 Physician Resident Progress Note
Chief Complaint: shortness of breath, tachypnea
   24 Hour Events:
   - SOB improved with deep suctioning
   - given 250 cc bolus x 2 for asymptomatic hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-27**] 03:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-27**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 81 (77 - 81) bpm
   BP: 92/38(51) {76/22(39) - 100/38(52)} mmHg
   RR: 23 (22 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             748 mL
   PO:
             TF:
   IVF:
   748 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    135 mL
   Urine:
   135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), 2/6 systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous:
   diffusely)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   9.3 g/dL
   127 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   28.9 %
   17.0 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
   WBC
   17.0
   Hct
   28.9
   Plt
   244
   Cr
   1.0
   TropT
   0.06
   Glucose
   127
   Other labs: PT / PTT / INR:56.9/40.5/6.7, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/25, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:96.1 %, Band:0.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.3
   %, Albumin:3.0 g/dL, LDH:517 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3383**] is an 84 year old female with CAD, AS, diastolic CHF
   admitted with a worsening shortness of breath.
   .
   1.  SOB.  Patient recently discharged from [**Hospital1 19**] with pneumonia,
   treated with levaquin and 14 day course of vancomycin for MRSA PNA
   completed on [**9-18**].  Now with leukocytosis, though denies fevers or
   chills.  Concern for pneumonia (hospital acquired given that she was at
   rehab and recently discharged).  Although increasing O2 requirements
   may be due to patient's inability to clear secretions due to weak
   cough/ deconditioning.  Has a history of PE, though currently with
   supratherapeutic INR.  Has history of diastolic heart failure with
   elevated BNP (though unknown baseline), elevated JVP, b/l LE edema
   (stable), and "Mild CHF" on CXR, which may be contributing to her SOB
   though did not tolerate diuresis in ED due to low BP.  Given
   leukocytosis, would favor treating pneumonia and then considering
   diuresis in a few days if she fails to respond.
   - continue albuterol, atrovent
   - vanco/cefepime for HAP
   - follow fever curve, wbc
   - frequent suctioning
   - consider diuresis if BP tolerates it
   - send sputum sample
   - PA and lateral CXR
   .
   2. A. fib.  Patient developed A. fib post-operatively after CABG on
   [**2138-7-29**] and has been treated with coumadin.  Now found to have
   supratherapeutic INR.  Currently in NSR.
   - continue amiodarone
   - hold coumadin given supratherapeutic INR
   - hold metoprolol for now given hypotension in ED
   .
   3.  CAD.  S/p CABG on [**2138-7-29**].  Initial set of cardiac enzymes showed
   normal CK and TropT of 0.05.  Not complaining of CP and EKG appears
   unchanged.
   - aspirin, simvastatin
   - hold lisinopril, metoprolol given hypotension in ED
   .
   4.       Hypotension.  Patient had hypotension to 70s overnight, after
   receiving lasix in ED.  From prior notes, appears to commonly have SBP
   of 100 or 110.  Given concern for pulmonary infection, will given fluid
   boluses to maintain SBP > 90.  Due to hypotension, unable to diurese
   patient.
   - fluid boluses to maintain SBP > 90
   5.       Sytolic murmur.  Patient with systolic murmur on exam.
   Recently had aortic valve replacement.  Echo following surgery showed
   1+ AR, and [**11-20**]+MR.
   - consider echo
   Ppx: therapeutic INR for A. fib, bowel regimen, home PPI
   Access: PIVs x 2
   Communication: patient, daughter
   DNR/[**Name2 (NI) 951**], confirmed with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-9-27**] 02:17 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2138-09-28 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   S/S consult placed but weekend, likely no assessment until Monday
   CT chest showed R pleural effusion, bil infiltrate, likely aspiration
   (wet read)
   ECHO ordered, not yet complete
   NGT placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-27**] 03:50 AM
   Piperacillin - [**2138-9-28**] 06:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-28**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 87 (78 - 99) bpm
   BP: 146/55(76) {86/30(44) - 146/65(76)} mmHg
   RR: 25 (10 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,114 mL
                                                                    352 mL
   PO:
                                                                     30 mL
             TF:
             37 mL
   IVF:
                                                                    964 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    570 mL
                                                                    235 mL
   Urine:
                                                                    570 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    544 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   9.5 g/dL
   68 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   27 mg/dL
   109 mEq/L
   140 mEq/L
   29.6 %
   12.8 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
                             [**2138-9-28**]  05:01 AM
   WBC
   17.0
   12.8
   Hct
   28.9
   29.6
   Plt
   244
   248
   Cr
   1.0
   0.8
   TropT
   0.06
   Glucose
   127
   68
   Other labs: PT / PTT / INR:58.9/49.7/7.0, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/25, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:96.1 %, Band:0.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.3
   %, Albumin:3.0 g/dL, LDH:517 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   84 yo female with hx of AS, CAD s/p CABG and AVR on [**2138-7-29**]  presented
   to OSH on [**8-25**] with severe SOB and LLL collapse and left pleural
   effusion thought to be [**12-21**] MRSA PNA (OSH clx from [**9-4**]) discharged on
   [**9-10**] to rehab and now admitted from rehab with increasing DOE and
   cough (non productive).
   Pneumonia: recent MRSA pneumonia now with elevated WBC and concern for
   recurrent left sided effusion. Unclear whether this is an under treated
   MRSA PNA, new HCAP or new/chronic  aspiration event. An alternative
   explanation given the previous transudative effusion would be that it
   was a post CABG effusion. She also appears at very high risk given her
   weakness and inability to clear secretions to aspirate.
   - cover broadly for MRSA, GNR and anaerobes (Vanco and Pip-Tazo)
   - Deep suction
   - Chest CT (non contrast)
   PE: [**2138-1-18**], thought to be [**12-21**] immobilization. She remains at high
   risk for recurrent PE however she is currently supra-therapeutic.
   - Hold coumadin for now (will reverse with FFP if needed) for possible
   thoracentesis
   Diastolic dysfunction/CAD s/p CABG:  there may be an element of
   decompensated fuction here with increased BNP. She had received
   diuresis in the ED and became hypotensive.  We will re-evaluate her
   cardiac function with TTE, it may be that she requires a gentler
   approach (ie IV lasix drip) to effect good diuresis.
   - TTE
   - Hold beta blocker and lasix for now (although she appears volume
   overloaded)
   - Cont ASA
   Atrial fibrillation: amiodarone (can convert to IV as needed),
   currently in sinus so will defer therapy for now. If NG tube placed
   then restart amiodarone.
   Swallowing: she is at very high risk for aspiration, will have her NPO
   for now until we can have SLP further evaluate her. In the mean time
   given the pooled secretions she will need an NG tube for feeding
   - NG tube
   - tube feeds
   - repeat SLP on [**9-29**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-9-28**] 03:55 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-9-27**] 02:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2138-09-28 08:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-27**] 03:50 AM
   Piperacillin - [**2138-9-28**] 06:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-28**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 87 (78 - 99) bpm
   BP: 146/55(76) {86/30(44) - 146/65(76)} mmHg
   RR: 25 (10 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,114 mL
                                                                    367 mL
   PO:
                                                                     30 mL
             TF:
             44 mL
   IVF:
                                                                    964 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                    570 mL
                                                                    235 mL
   Urine:
                                                                    570 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    544 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin/cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right and left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, ecchymosis lower ext
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   248 K/uL
   68 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   27 mg/dL
   109 mEq/L
   140 mEq/L
   29.6 %
   12.8 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
                             [**2138-9-28**]  05:01 AM
   WBC
   17.0
   12.8
   Hct
   28.9
   29.6
   Plt
   244
   248
   Cr
   1.0
   0.8
   TropT
   0.06
   Glucose
   127
   68
   Other labs: PT / PTT / INR:58.9/49.7/7.0, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/25, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:96.1 %, Band:0.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.3
   %, Albumin:3.0 g/dL, LDH:517 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
[**2138-9-27**] 2:28 am SPUTUM     Site: INDUCED
   GRAM STAIN (Final [**2138-9-27**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    MODERATE GROWTH.
      GRAM NEGATIVE ROD #1.    MODERATE GROWTH.
         STAPH AUREUS COAG +.    MODERATE GROWTH
   Blood and urine clx: ngtd
   Assessment and Plan
   84 yo female with hx of AS, CAD s/p CABG and AVR on [**2138-7-29**]  presented
   to OSH on [**8-25**] with severe SOB and LLL collapse and left pleural
   effusion thought to be [**12-21**] MRSA PNA (OSH clx from [**9-4**]) discharged on
   [**9-10**] to rehab and now admitted from rehab with increasing DOE and
   cough (non productive, imaging consistent with PNA  and sputum with GNR
   and MRSA PNA.
   >Pneumonia: recent MRSA pneumonia now with elevated WBC with MRSA and
   GNR on sputum culture.  As regards her effusion  an alternative
   explanation given the previous transudative effusion would be that it
   was a post CABG effusion. She also appears at very high risk given her
   weakness and inability to clear secretions to aspirate.  Notably her
   WBC has improved since starting therapy and her left sided effusion is
   actually smaller in size then previous ([**8-25**])
   - cover broadly for MRSA, GNR and anaerobes (Vanco and Pip-Tazo) for a
   minimum of 14 day course. Day 1 = [**9-27**]
   - Deep suction
   - Will need PICC line [**9-29**] for IV course.
   >PE: [**2138-1-18**], thought to be [**12-21**] immobilization. She remains at high
   risk for recurrent PE however she is currently supra-therapeutic.
   - Hold coumadin for now
   - 2 days of Vit K starting [**9-28**] as she will likely need long term
   anti-coag
   >Diastolic dysfunction/CAD s/p CABG:  there may be an element of
   decompensated fuction here with increased BNP. She had received
   diuresis in the ED and became hypotensive.  We will re-evaluate her
   cardiac function with TTE, it may be that she requires a gentler
   approach (ie IV lasix drip) to effect good diuresis as she has marked
   lower ext edema, however I think we can defer this until we see
   improvement in her infectious process.
   - TTE not done yet.
   - Hold beta blocker and lasix for now (although she appears volume
   overloaded). It may be reasonable to start low dose lasix tomorrow
   ([**9-29**])
   - Cont ASA
    Atrial fibrillation: amiodarone
   - Amiodarone by NG
    >Swallowing: she is at very high risk for aspiration, will have her
   NPO (s/p NG tube)  for now until we can have SLP further evaluate her.
   - NG tube
   - tube feeds
   - repeat SLP on [**9-29**]
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-9-28**] 03:55 AM 10 mL/hour
   Comments: NG tube
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-9-27**] 02:17 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Boots, supra therapeutic INR
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care and suctioning
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Ms. [**Known lastname 3383**] and discussed her case with Dr. [**First Name (STitle) 424**],
   whose note above reflects my input.  This 84-year-old woman with a
   complicated cardiac history has improved somewhat with therapy but is
   still tenuous requiring close respiratory management, suctioning, etc.
   Her CT is consistent with pneumonia; when compared with prior CT, the
   effusion is much smaller, suggesting that it does not represent
   infection.  We will continue to treat for nosocomial pneumonia and hold
   off on thoracentesis.  For her history of PE, we are trying to bring
   her INR down into the usual therapeutic range with vitamin K.  Given
   the current level and no current evidence of bleeding, guidelines do
   not recommend more active reversal.  Other issues as per Dr. [**First Name (STitle) 423**]
   note above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2138-9-28**] 22:51 ------

2138-09-29 07:34:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-28**] 08:33 AM
   Piperacillin - [**2138-9-29**] 05:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 81 (79 - 95) bpm
   BP: 109/31(51) {93/30(47) - 134/52(71)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,509 mL
                                                                    563 mL
   PO:
             TF:
                                                                    409 mL
                                                                    227 mL
   IVF:
                                                                    640 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    200 mL
   Urine:
                                                                    650 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    859 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : right and left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, ecchymosis
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   237 K/uL
   111 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   25 mg/dL
   110 mEq/L
   142 mEq/L
   30.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
                             [**2138-9-28**]  05:01 AM
                             [**2138-9-28**]  03:46 PM
                            [**2138-9-29**]  02:46 AM
   WBC
   17.0
   12.8
   11.5
   Hct
   28.9
   29.6
   30.4
   Plt
   244
   248
   237
   Cr
   1.0
   0.8
   0.9
   0.8
   TropT
   0.06
   Glucose
   127
   68
   96
   111
   Other labs: PT / PTT / INR:31.3/38.3/3.2, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/25, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:96.1 %, Band:0.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.3
   %, Albumin:3.0 g/dL, LDH:517 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   84 yo female with hx of AS, CAD s/p CABG and AVR on [**2138-7-29**]  presented
   to OSH on [**8-25**] with severe SOB and LLL collapse and left pleural
   effusion thought to be [**12-21**] MRSA PNA (OSH clx from [**9-4**]) discharged on
   [**9-10**] to rehab and now admitted from rehab with increasing DOE and
   cough (non productive, imaging consistent with PNA  and sputum with GNR
   and MRSA PNA.
   >Pneumonia: recent MRSA pneumonia now with elevated WBC with MRSA and
   GNR on sputum culture.  As regards her effusion  an alternative
   explanation given the previous transudative effusion would be that it
   was a post CABG effusion. She also appears at very high risk given her
   weakness and inability to clear secretions to aspirate.  Notably her
   WBC has improved since starting therapy and her left sided effusion is
   actually smaller in size then previous ([**8-25**])
   - cover broadly for MRSA, GNR and anaerobes (Vanco and Pip-Tazo) for a
   minimum of 14 day course. Day 1 = [**9-27**]
   - Deep suction
   - Will need PICC line [**9-29**] for IV course.
   >PE: [**2138-1-18**], thought to be [**12-21**] immobilization. She remains at high
   risk for recurrent PE however she is currently supra-therapeutic.
   - Hold coumadin for now
   - 2 days of Vit K starting [**9-28**] as she will likely need long term
   anti-coag
   >Diastolic dysfunction/CAD s/p CABG:  there may be an element of
   decompensated fuction here with increased BNP. She had received
   diuresis in the ED and became hypotensive.  We will re-evaluate her
   cardiac function with TTE, it may be that she requires a gentler
   approach (ie IV lasix drip) to effect good diuresis as she has marked
   lower ext edema, however I think we can defer this until we see
   improvement in her infectious process.
   - TTE not done yet.
   - Hold beta blocker and lasix for now (although she appears volume
   overloaded). It may be reasonable to start low dose lasix tomorrow
   ([**9-29**])
   - Cont ASA
    Atrial fibrillation: amiodarone
   - Amiodarone by NG
    >Swallowing: she is at very high risk for aspiration, will have her
   NPO (s/p NG tube)  for now until we can have SLP further evaluate her.
   - NG tube
   - tube feeds
   - repeat SLP on [**9-29**]
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-9-29**] 03:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-9-27**] 02:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2138-09-29 07:43:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
   - Didn't call out due to suctioning requirements, but patient
   attempting to self suction.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-28**] 08:33 AM
   Piperacillin - [**2138-9-29**] 05:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-29**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 81 (79 - 95) bpm
   BP: 109/31(51) {93/30(47) - 134/52(71)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,509 mL
                                                                    569 mL
   PO:
             TF:
                                                                    409 mL
                                                                    232 mL
   IVF:
                                                                    640 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    200 mL
   Urine:
                                                                    650 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    859 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: chronically ill appearing, cachectic
   HEENT: o/p with secretions
   CV: RRR, systolic murmur
   Pulm: diffuse rhonchi, improving
   Abd: soft, NT, ND, bowel sounds present
   Ext: b/l 2+ pitting edema
   Labs / Radiology
   237 K/uL
   9.6 g/dL
   111 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   25 mg/dL
   110 mEq/L
   142 mEq/L
   30.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
                             [**2138-9-28**]  05:01 AM
                             [**2138-9-28**]  03:46 PM
                            [**2138-9-29**]  02:46 AM
   WBC
   17.0
   12.8
   11.5
   Hct
   28.9
   29.6
   30.4
   Plt
   244
   248
   237
   Cr
   1.0
   0.8
   0.9
   0.8
   TropT
   0.06
   Glucose
   127
   68
   96
   111
   Other labs: PT / PTT / INR:31.3/38.3/3.2, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/25, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:96.1 %, Band:0.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.3
   %, Albumin:3.0 g/dL, LDH:517 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.3 mg/dL
   Micro:
   Sputum [**2138-9-27**].
GRAM STAIN (Final [**2138-9-27**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    MODERATE GROWTH.
      GRAM NEGATIVE ROD #1.    MODERATE GROWTH.
      STAPH AUREUS COAG +.    MODERATE GROWTH.
   CT Chest [**2138-9-27**].
   IMPRESSION:
   1. Improvement in non-hemorrhagic left pleural effusion, now small.
   Improvement of left lower lobe collapse.
   2. Change in location and overall increased multifocal pneumonia, now
   more in
   the right lower lobe, less marked in right upper lobe, right middle
   lobe and
   left lower lobe.
   3. Moderate cardiomegaly. Prior sternotomy for AVR. Extensive
   atherosclerotic calcifications.
   4. Enlargement of main pulmonary artery, suggesting pulmonary
   hypertension.
   5. Left adrenal adenoma.
   6. Kyphosis and unchanged multiple compression fractures.
   Assessment and Plan
   In summary, Ms. [**Known lastname 3383**] is an 84 year old female with AS, CAD s/p CABG
   and AVR on [**2138-7-29**] presented to OSH in [**Month (only) 1148**] with SOB, with L pleural
   effusion recent admission for MRSA pneumonia now with worsening
   multifocal pneumonia (?recurrent aspiration) and ?decompensated CHF.
   1.   pneumonia.  Patient discharged last week for MRSA PNA.  Now with
   rising WBC and increasing secretions.  Respiratory status has improved
   with suctioning, vanco/zosyn.  Suspician for recurrent aspiration
   pneumonia.
   - f/u sputum culture
   - MRSA and GNR coverage with anaerobes
 dedicated 14d course, to end
   [**10-11**] - Vanco and Pip-Tazo
   - deep suction prn
   2.  History of PE.  Patient had PE in [**1-/2138**], thought [**12-21**]
   immobilization.  INR has been drifting down off coumadin.  Will restart
   coumadin in AM if INR < 3.0.
   - follow INR
   - consider resuming coumadin in AM
   3.  Diastolic dysfunction/CAD s/p CABG.  There may be an element of
   decompensated fuction here with increased BNP. She had received
   diuresis in the ED and became hypotensive.  [**Month (only) 51**] ultimately need
   diuresis once lung disease stabilizes.
   - TTE today
   - hold beta blocker and lasix
   - cont asa
   4.       Atrial fibrillation.  Amiodarone.  Holding lopressor due to
   hypotension.  Anticoagulated with coumadin.
   - continue amiodarone
   - therapeutic inr
   - continue to hold lopressor
   5.  Swallowing. aspiration risk, will have her NPO for now until we can
   have SLP further evaluate her. In the mean time given the pooled
   secretions she will need an NG tube for feeding
   - tube feeds
   - S&S eval
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-9-29**] 03:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-9-27**] 02:17 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2138-09-30 07:47:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   - Had significant nosebleed due to recurrent NT suctioning --> FFP x 2
   given, ENT called, afrin spray b/l, HOB elevation, ice packs.  Nose
   packing placed by ENT, will remain in place for 5 days.
   - Echo showed high transaortic gradient across prosthetic valve.  CT
   [**Doctor First Name 213**] consulted and preliminarily recommended TEE.  Patient NPO for
   this.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-29**] 08:45 AM
   Piperacillin - [**2138-9-29**] 11:46 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-30**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 98 (82 - 98) bpm
   BP: 156/58(83) {84/29(43) - 175/69(95)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,988 mL
                                                                    646 mL
   PO:
           TF:
                                                                    828 mL
   IVF:
                                                                    690 mL
                                                                     78 mL
   Blood products:
   568 mL
   Total out:
                                                                    705 mL
                                                                    255 mL
   Urine:
                                                                    705 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General: Frail appearing elderly female, lying in bed, NAD.
   HEENT: L nares packed, R with NGT.  MM quite dry.
   Heart: Regular, continued loud SM throughout apex, max at RUSB.
   Lungs. Diffusely diminished, no clear crackles/wheeze.
   Abdomen: +BS, soft, NT/ND.
   Extrem: skin ecchymotic at multiple spots, RUE skin tear.  Unchanged 2+
   pitting edema of legs.
   Labs / Radiology
   244 K/uL
   8.8 g/dL
   93 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.1 mEq/L
   22 mg/dL
   109 mEq/L
   141 mEq/L
   27.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
                             [**2138-9-28**]  05:01 AM
                             [**2138-9-28**]  03:46 PM
                            [**2138-9-29**]  02:46 AM
                            [**2138-9-30**]  03:09 AM
   WBC
   17.0
   12.8
   11.5
   12.2
   Hct
   28.9
   29.6
   30.4
   27.9
   Plt
   244
   248
   237
   244
   Cr
   1.0
   0.8
   0.9
   0.8
   0.7
   TropT
   0.06
   Glucose
   127
   68
   96
   111
   93
   Other labs: PT / PTT / INR:25.5/31.4/2.5, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/26, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:91.7 %, Band:0.0 %, Lymph:3.7 %, Mono:2.9 %, Eos:1.7
   %, Albumin:2.8 g/dL, LDH:527 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3383**] is an 84 year old female with AS, CAD s/p CABG and AVR on
   [**2138-7-29**] presented to OSH in [**Month (only) 1148**] with SOB, with L pleural effusion
   recent admission for MRSA pneumonia now with worsening multifocal
   pneumonia (?recurrent aspiration) and ?decompensated CHF.
   #.   pneumonia.  Patient discharged last week for MRSA PNA.  Now with
   rising WBC and increasing secretions.  Respiratory status has improved
   with suctioning, vanco/zosyn.  Suspician for recurrent aspiration
   pneumonia.  Thus far sputum cultures with MRSA and pansensitive
   klebsiella.
   - Will continue for 14 day course of vanc and zosyn to cover recurrent
   MRSA, the Klebsiella, and any other uncultured  organisms from
   recurrent aspiration.
   - speech and swallow.
   # Epistaxis.  Likely related to recurrent NT suctioning.  INR was in
   therapeutic range; now s/p reversal with FFP.  ENT packed on [**9-30**].
   -          recheck coags and INR this afternoon
   -          ENT recs; planning on 5 days of packing.  On antibiotic
   therapy for pneumonia.
   -          Continue vitamin K x one more day.
   # Aortic stenosis s/p AVR.  Recent AVR but with increased gradient
   (doubled peak and mean since last echo).  Also mild AR.
   -          CT [**Doctor First Name 213**] team notified overnight.
   -          f/u CT [**Doctor First Name 213**] recs today (Dr. [**Last Name (STitle) 3277**] is her surgeon)
   -          Consider TEE; would likely need intubation to tolerate
   this.  Will discuss with CT surgery.  Unclear if well enough for
   surgical procedure if indicated.
   #.  History of PE.  Patient had PE in [**1-/2138**], thought [**12-21**]
   immobilization.  INR has been drifting down off coumadin.  Now with
   epistaxis as above.
   - no further coumadin, at least now in short term.  Consider holding
   long term.
   - recheck INR today.
   #.  Diastolic dysfunction/CAD s/p CABG.  AVR tight as above.  She had
   received diuresis in the ED and became hypotensive.  [**Month (only) 51**] ultimately
   need diuresis once lung disease stabilizes (best done with lasix gtt if
   needed).
   - Awaiting further discussion re: management of AVR.
   - hold beta blocker and lasix for now.
   - cont asa
   #.       Atrial fibrillation.  Currently in sinus.  On Amiodarone.
   Anticoagulated with coumadin.
   - continue amiodarone
   - hold coumadin
   - continue to hold lopressor for now
   #   Swallowing. aspiration risk, will have her NPO for now until we can
   have SLP further evaluate her. In the mean time given the pooled
   secretions she will need an NG tube for feeding
   - tube feeds
   - S&S eval
   ICU Care
   Nutrition: NPO, on tube feeds.
   Glycemic Control:
   Lines:
   22 Gauge - [**2138-9-30**] 06:34 AM
   20 Gauge - [**2138-9-30**] 06:46 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU today

2138-10-01 07:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-29**] 11:46 PM
   Vancomycin - [**2138-9-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-1**] 05:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-1**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (79 - 93) bpm
   BP: 106/47(62) {102/34(52) - 161/85(104)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,025 mL
                                                                    258 mL
   PO:
             TF:
                                                                    477 mL
                                                                     23 mL
   IVF:
                                                                    590 mL
                                                                    125 mL
   Blood products:
                                                                    568 mL
   Total out:
                                                                    714 mL
                                                                    270 mL
   Urine:
                                                                    714 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,311 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases L>R), dull to
   percussion at present with E>A egop
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, echhymosis
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   224 K/uL
   90 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   21 mg/dL
   106 mEq/L
   142 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
                             [**2138-9-28**]  05:01 AM
                             [**2138-9-28**]  03:46 PM
                            [**2138-9-29**]  02:46 AM
                            [**2138-9-30**]  03:09 AM
                            [**2138-9-30**]  03:55 PM
                            [**2138-10-1**]  04:00 AM
   WBC
   17.0
   12.8
   11.5
   12.2
   10.4
   11.3
   Hct
   28.9
   29.6
   30.4
   27.9
   25.4
   25.6
   Plt
   244
   248
   237
   244
   213
   224
   Cr
   1.0
   0.8
   0.9
   0.8
   0.7
   0.7
   TropT
   0.06
   Glucose
   127
   68
   96
   111
   93
   90
   Other labs: PT / PTT / INR:16.8/30.4/1.5, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/26, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:91.7 %, Band:0.0 %, Lymph:3.7 %, Mono:2.9 %, Eos:1.7
   %, Albumin:2.8 g/dL, LDH:527 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   84 yo female with hx of AS, CAD s/p CABG and AVR on [**2138-7-29**]  presented
   to OSH on [**8-25**] with severe SOB and LLL collapse and left pleural
   effusion thought to be [**12-21**] MRSA PNA (OSH clx from [**9-4**]) discharged on
   [**9-10**] to rehab and now admitted from rehab with increasing DOE and
   cough (non productive, imaging consistent with PNA  and sputum with
   Klebsiella and MRSA PNA.. Her most recent course is complicated by the
   discovery of a high gradient across the AVR.
   >Pneumonia: recent MRSA pneumonia now with elevated WBC with MRSA and
   GNR on sputum culture.  As regards her effusion  an alternative
   explanation given the previous transudative effusion would be that it
   was a post CABG effusion. She also appears at very high risk given her
   weakness and inability to clear secretions to aspirate.  Notably her
   WBC has improved since starting therapy and her left sided effusion is
   actually smaller in size then previous ([**8-25**])
   - cover broadly for MRSA, GNR and anaerobes (Vanco and Pip-Tazo) for a
   minimum of 14 day course. Day 1 = [**9-27**]
   - Deep suction
   - Will need PICC line [**9-29**] for IV course.
   >PE: [**2138-1-18**], thought to be [**12-21**] immobilization. She remains at high
   risk for recurrent PE however she is currently supra-therapeutic.  Her
   PE has a reversible risk factor and with her current bleeding we feel
   comfortable that she has received an adequate cours, also she has
   marked increase in ecchymosis and a nose bleed requiring ENT so we will
   no longer anti-coagulate
   - No further role for anti-coagulation (and does not require from a
   valvular standpoint)
   - Cont Vitamin K for one additional day
    >Diastolic dysfunction/CAD s/p CABG and AVR:  Her clinical exam and
   increased BNP are  consistent with the findings of TTE which shows
   increased gradient across the valve. We will d/w cardiac surgery
   regarding further diagnostic testing given her overall conditioning she
   would seem to be a poor candidate if surgery were deemed necessary. We
   will attempt gentle diuresis with lasix gtt today and aim for net
   negative goal. I do not think she can tolerate a TEE for further
   evaluation given her degree of respiratory compromise.
   -- Hold beta blocker and lasix for now (although she appears volume
   overloaded).
   - Cont ASA
   > Nose bleed: [**12-21**] suction trauma, appreciate ENT input and packing.
   - Will cont to follow Hct, Plt and INR
   >Atrial fibrillation: amiodarone
   - Amiodarone by NG
   >Swallowing: she is at very high risk for aspiration, will have her NPO
   (s/p NG tube)  for now until we can have SLP further evaluate her.
   - NG tube
   - tube feeds
   - Video swallow: cancel for now given over all poor prognosis.
   Other issues per ICU resident note.
   Addendum-
   After discussion with the family
 given the patient prognosis and
   wishes, the decision has been made to stop
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2138-9-30**] 06:34 AM
   20 Gauge - [**2138-9-30**] 06:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :To Floor
   Total time spent: 35 min

2138-10-01 07:49:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   Consulted CT surgery to address AVR and +gradient - ?plan for TEE [**10-1**]
   (patient would require intubation).
   S/S - failed evaluation, plan for video swallow [**10-1**], keep NPO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2138-9-29**] 11:46 PM
   Vancomycin - [**2138-9-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-1**] 05:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-1**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (79 - 93) bpm
   BP: 106/47(62) {102/34(52) - 161/85(104)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,025 mL
                                                                    260 mL
   PO:
             TF:
                                                                    477 mL
                                                                     23 mL
   IVF:
                                                                    590 mL
                                                                    127 mL
   Blood products:
                                                                    568 mL
   Total out:
                                                                    714 mL
                                                                    270 mL
   Urine:
                                                                    714 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,311 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General: Frail elderly female, NAD.
   HEENT: On face tent.  L nares packed, R nares with NGT. MM dry.
   Chest: Very diminished at bases (worsening), few scattered coarse
   crackles.
   Heart: regular, unchanged loud systolic murmur at RUSB.
   Abdomen: soft, NT/ND +BS
   Extrem: 2+ bilat LE edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   8.3 g/dL
   90 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   21 mg/dL
   106 mEq/L
   142 mEq/L
   25.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2138-9-27**]  04:30 AM
                             [**2138-9-28**]  05:01 AM
                             [**2138-9-28**]  03:46 PM
                            [**2138-9-29**]  02:46 AM
                            [**2138-9-30**]  03:09 AM
                            [**2138-9-30**]  03:55 PM
                            [**2138-10-1**]  04:00 AM
   WBC
   17.0
   12.8
   11.5
   12.2
   10.4
   11.3
   Hct
   28.9
   29.6
   30.4
   27.9
   25.4
   25.6
   Plt
   244
   248
   237
   244
   213
   224
   Cr
   1.0
   0.8
   0.9
   0.8
   0.7
   0.7
   TropT
   0.06
   Glucose
   127
   68
   96
   111
   93
   90
   Other labs: PT / PTT / INR:16.8/30.4/1.5, CK / CKMB /
   Troponin-T:36//0.06, ALT / AST:16/26, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:91.7 %, Band:0.0 %, Lymph:3.7 %, Mono:2.9 %, Eos:1.7
   %, Albumin:2.8 g/dL, LDH:527 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3383**] is an 84 year old female with AS, CAD s/p CABG and AVR on
   [**2138-7-29**] presented to OSH in [**Month (only) 1148**] with SOB, with L pleural effusion
   recent admission for MRSA pneumonia now with worsening multifocal
   pneumonia (?recurrent aspiration) and ?decompensated CHF.
   #.   pneumonia.  Patient discharged a week PTA for MRSA PNA. Also
   suspician for recurrent aspiration pneumonia.  Thus far sputum cultures
   with MRSA and pansensitive klebsiella.
   - Will continue for 14 day course of vanc and zosyn to cover recurrent
   MRSA, the Klebsiella, and any other uncultured  organisms from
   recurrent aspiration.
   - speech and swallow when able (needs video study).
   # Hypoxia/respiratory distress.  Multifactorial.  Has MRSA pneumonia as
   above, likely also chronic aspiration.  Has difficulty clearing
   secretions due to muscular weakness; unable to effectively suction due
   to epistaxis.  Also with likely worsening CHF (intermittent hypotension
   with attempts at diuresis, increasing LE edema and pleural effusions).
   Concern that recent AvR with increasing gradient across valve.
   - will attempt gentle diuresis via lasix gtt today.
   - pneumonia and aspiration management.
   - awaiting cardiac [**Doctor First Name 213**] input re: valve.
   # Epistaxis.  Likely related to recurrent NT suctioning.  INR was in
   therapeutic range; now s/p reversal with FFP.  ENT packed on [**9-30**].
   INR 1.5 today.
   -          recheck coags and INR this afternoon
   -          ENT recs; planning on 5 days total of packing.  On
   antibiotic therapy.
   -          Continue vitamin K x one more day.
   # Aortic stenosis s/p AVR.  Recent AVR but with increased gradient
   (doubled peak and mean since last echo).  Also mild AR.
   -          CT [**Doctor First Name 213**] team aware; Dr. [**Last Name (STitle) 3277**] to see today/tomorrow.
   -          Holding off on TEE; would need intubation to tolerate this,
   and would be difficult to extubate.  Will discuss with CT surgery.
   Unclear if well enough for surgical procedure if indicated.
   #.  History of PE.  Patient had PE in [**1-/2138**], thought [**12-21**]
   immobilization.  INR has been drifting down off coumadin.  Now with
   epistaxis as above.
   - no further coumadin, at least now in short term.  Consider holding
   long term.
   #.  Diastolic dysfunction/CAD s/p CABG.  AVR tight as above.  She had
   received diuresis in the ED and became hypotensive.  [**Month (only) 51**] ultimately
   need diuresis once lung disease stabilizes (best done with lasix gtt if
   needed).
   - Awaiting further discussion re: management of AVR.
   - start lasix gtt for gentle diuresis (goal 1 L negative today)
   - consider thoracentesis for short term management of effusions.
   #.       Atrial fibrillation.  Currently in sinus.  On Amiodarone.
   Anticoagulated with coumadin.
   - continue amiodarone
   - hold coumadin
   - continue to hold lopressor for now
   #   Swallowing. aspiration risk, will have her NPO for now until we can
   have SLP further evaluate her. In the mean time given the pooled
   secretions she will need an NG tube for feeding
   - tube feeds
   - S&S eval (video study pending, but respiratory status too tenuous to
   have study today).
   ICU Care
   Nutrition:
   Comments: tube feeds via NGT
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2138-9-30**] 06:34 AM
   20 Gauge - [**2138-9-30**] 06:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU